US07776896B2
A solution of dimethyl methylphosphonate (60 g, 485 mmol) in 600 ml THF was cooled to −78° C. and treated with a 2.5 M solution n-butyl lithium in hexane (194 mL, 485 mmol). After 30 min, the reaction was treated with a solution of methyl 2-methylhexanoate (14 g, 97 mmol) in THF (40 mL). The reaction was stirred for 1 h at −78° C. The reaction was treated with a saturated aqueous ammonium chloride solution (200 mL) and allowed to warm to ambient temperature. The solution was diluted with water and extracted with ether. The combined organic layers were washed with brine, dried, and concentrated. Purification by normal phase chromatography using a gradient of ethyl acetate in hexane gave dimethyl (3-methyl-2-oxoheptyl)phosphonate.

reactant | dimethyl methylphosphonate | 485 mmol, 60 g | CP(OC)(OC)=O | C3H9O3P
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 485 mmol, 194 mL | CCCCCC | C6H14
reactant | methyl 2-methylhexanoate | 97 mmol, 14 g | CC(C(=O)OC)CCCC | C8H16O2
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | THF | 600 ml | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | dimethyl (3-methyl-2-oxoheptyl)phosphonate | CC(C(CP(OC)(OC)=O)=O)CCCC | C10H21O4P
